data/oMe_Silver.jsonl
{"reaction_id": "NR-207_1-c1ccc2ccccc2c1_2-CCCC_3-C1CC2CCCCC2C1_4-C#CC(C)(C)C","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc2ccccc2c1)(CCCC)","C(C1CC2CCCCC2C1)(C#CC(C)(C)C)O"],"products_smiles": ["OC(c1ccc2ccccc2c1)(CCCC).C(C1CC2CCCCC2C1)(=O)C#CC(C)(C)C"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C1CC2CCCCC2C1)(C#CC(C)(C)C)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CC2CCCCC2C1)(C#CC(C)(C)C)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C1CC2CCCCC2C1)(C#CC(C)(C)C)[O][Al-](OC(C)C)([O+]=C(c1ccc2ccccc2c1)(CCCC))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc2ccccc2c1)(CCCC).C(C1CC2CCCCC2C1)(=O)C#CC(C)(C)C","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
{"reaction_id": "NR-106_1-CCCC_2-c1cccc2ccccc12_3-C(F)(F)F_4-c1cnccc1","level": "medium","name": "Henry Reaction","reactants_smiles": ["C(CCCC)(c1cccc2ccccc12)[N+](=O)[O-]","C(C(F)(F)F)(c1cnccc1)=O","[OH-]"],"products_smiles": ["C(C(F)(F)F)(c1cnccc1)(O)C(CCCC)(c1cccc2ccccc12)[N+](=O)[O-]"],"conditions": "Base","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CCCC)(c1cccc2ccccc12)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The base abstracts the acidic α-proton next to the nitro group, as the resulting nitronate anion is resonance-stabilized by delocalization onto the electron-withdrawing nitro group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(F)(F)F)(c1cnccc1)([O-])C(CCCC)(c1cccc2ccccc12)[N+](=O)[O-]","step_weight": 0,"rationale": "The nucleophilic nitronate carbon attacks the electrophilic carbonyl carbon, favored by the strong polarization of the C=O bond and minimal steric hindrance at the carbonyl center."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(F)(F)F)(c1cnccc1)(O)C(CCCC)(c1cccc2ccccc12)[N+](=O)[O-]","step_weight": 0,"rationale": "The alkoxide intermediate is protonated by solvent or conjugate acid, driven by the strong thermodynamic preference for neutral alcohol formation."}],"description": "Under basic conditions, the α-proton of the nitroalkane is deprotonated to form a resonance-stabilized nitronate anion, which then nucleophilically attacks the carbonyl carbon of the aldehyde/ketone. Subsequent protonation of the alkoxide yields the β-nitro alcohol product."}
